US08309580B2
(2) 4-{[cyclohexyl(3-methyl-5-phenylthiophen-2-yl)methyl]amino}benzoic acid
A mixture of 2-[chloro(cyclohexyl)methyl]-3-methyl-5-[4-(trifluoromethyl)phenyl]thiophene (0.9 g) obtained by the above-mentioned reaction, methyl 4-aminobenzoate (0.9 g), sodium carbonate (0.6 g) and sodium iodide (1.8 g) in N,N-dimethylacetamide (20 mL) was stirred overnight at 100° C. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column (0% ethyl acetate/hexane to 30% ethyl acetate/hexane) to give methyl 4-{[cyclohexyl(3-methyl-5-phenylthiophen-2-yl)methyl]amino}benzoate as an amorphous compound. The obtained methyl 4-{[cyclohexyl(3-methyl-5-phenylthiophen-2-yl)methyl]amino}benzoate was dissolved in methanol (5 mL) and tetrahydrofuran (5 mL). 2N Lithium hydroxide (2 mL) was added, and the mixture was stirred at 70° C. overnight. The reaction mixture was poured into water, and the mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (0.2 g, 20%) as an amorphous compound.

reactant | methyl 4-{[cyclohexyl(3-methyl-5-phenylthiophen-2-yl)methyl]amino}benzoate | C1(CCCCC1)C(C=1SC(=CC1C)C1=CC=CC=C1)NC1=CC=C(C(=O)OC)C=C1 | C26H29NO2S
reactant | Lithium hydroxide | 2N, 2 mL | [OH-].[Li+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-{[cyclohexyl(3-methyl-5-phenylthiophen-2-yl)methyl]amino}benzoic acid | 0.2 g, 20% | C1(CCCCC1)C(C=1SC(=CC1C)C1=CC=CC=C1)NC1=CC=C(C(=O)O)C=C1 | C25H27NO2S
